US04284631
2-(2-Formamidothiazol-4-yl)-2-t-butoxycarbonylmethoxyiminoacetic acid (syn isomer, 5 g.), N,N-dimethylformamide (1.68 g.), phosphoryl chloride (3.52 g.) and tetrahydrofuran (50 ml.) were treated in a similar manner to that of Example 1-(1) to give an activated acid solution. The solution was added to a stined suspension of 4-nitrobenzyl 7-amino-3-cephem-4-carboxylate (5.23 g.), in tetrahydrofuran (26 ml.), acetone (13 ml.) and water (13 ml.) at -5° to 0° C., and stirred at the same temperature for 30 minutes while keeping at pH 7 to 7.5 with 20% aqueous solution of sodium carbonate. After removing the insoluble substance from the resultant mixture, the filtrate was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. The solution was concentrated in vacuo, and the residue was triturated with diethyl ether. The precipitates were collected by filtration and dried to give 4-nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-t-butoxycarbonylmethoxyiminoacetamido]-3-cephem-4-carboxylate (syn isomer, 10.2 g.)

reactant | 2-(2-Formamidothiazol-4-yl)-2-t-butoxycarbonylmethoxyiminoacetic acid | 5 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCC(=O)OC(C)(C)C | C12H15N3O6S
reactant | phosphoryl chloride | 3.52 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-nitrobenzyl 7-amino-3-cephem-4-carboxylate | 5.23 g | NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C14H13N3O5S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 26 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 13 ml | O | H2O
solvent | acetone | 13 ml | CC(=O)C | C3H6O
solvent | N,N-dimethylformamide | 1.68 g | CN(C=O)C | C3H7NO
product | 4-nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-t-butoxycarbonylmethoxyiminoacetamido]-3-cephem-4-carboxylate | 10.2 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOCC(=O)OC(C)(C)C | C26H26N6O10S2
